US08440660B2
5-(5-Fluoro-2-methylphenoxymethyl)-6-(2-methoxy-4-phenylaminocarbonyloxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Compound No. 6-1)
5-(5-Fluoro-2-methylphenoxymethyl)-6-(4-hydroxy-2-methoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 3-1, 25.0 mg, 0.058 mmol) was dissolved in tetrahydrofuran (0.5 mL), triethylamine (19.3 μL, 0.138 mmol) and phenyl isocyanate (9.5 μL, 0.087 mmol) were added thereto, and then the mixture was stirred at room temperature for 2 hours. The reaction mixture was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (27.3 mg) as a colorless amorphous product. (Yield 86%)

reactant | 5-(5-Fluoro-2-methylphenoxymethyl)-6-(4-hydroxy-2-methoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 0.058 mmol, 25.0 mg | FC=1C=CC(=C(OCC2=C3C(=CC(NC3=CC=C2C2=C(C=C(C=C2)O)OC)(C)C)C)C1)C | C27H28FNO3
reactant | triethylamine | 0.138 mmol, 19.3 μL | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanate | 0.087 mmol, 9.5 μL | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
product | 5-(5-Fluoro-2-methylphenoxymethyl)-6-(2-methoxy-4-phenylaminocarbonyloxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 27.3 mg, Yield 86% | FC=1C=CC(=C(OCC2=C3C(=CC(NC3=CC=C2C2=C(C=C(C=C2)OC(=O)NC2=CC=CC=C2)OC)(C)C)C)C1)C | C34H33FN2O4
